US05607928
A mixture of 5-methoxy-1-tetralone (1 g; 5.67 mmol), thiophene-2-carboxaldehyde (800 μl 8.51 mmol), piperidine (168 μl; 1.7 mmol) and acetic acid (97 μl; 1.7 mmol) was heated at 130° C. for 2 hours. The mixture was taken up in CH2C2 and washed in water and in a saturated aqueous solution of NaCl. The organic phase was dried over MgSO4, filtered and evaporated. The residue was purified by flash chromatography on silica gel, eluting with petroleum ether/ethyl acetate (95/5) to give 5-methoxy-2-(2-thienylmethylene)-1-tetralone (1.2 g; 80%)

reactant | 5-methoxy-1-tetralone | 5.67 mmol, 1 g | COC1=C2CCCC(C2=CC=C1)=O | C11H12O2
reactant | thiophene-2-carboxaldehyde | 8.51 mmol, 800 μl | S1C(=CC=C1)C=O | C5H4OS
reactant | piperidine | 1.7 mmol, 168 μl | N1CCCCC1 | C5H11N
reactant | acetic acid | 1.7 mmol, 97 μl | C(C)(=O)O | C2H4O2
product | 5-methoxy-2-(2-thienylmethylene)-1-tetralone | 1.2 g, 80% | COC1=C2CCC(C(C2=CC=C1)=O)=CC=1SC=CC1 | C16H14O2S
